US07692005B2
N-[4-(2-Oxo-2,3-dihydro-1H-indole-5-carbonyl)-phenyl]-acetamide (0.330 g, 1.12 mmol) and ethyl formate (0.269 mL, 3.37 mmol) were dissolved in anhydrous ethanol (3.80 mL). The resulting solution was treated in dropwise fashion with a 21 wt % solution of sodium ethoxide in ethanol (2.09 mL, 5.61 mmol). This reaction mixture was heated at 78° C. for 1 h, producing a black oil. Subsequently, the reaction mixture was cooled to room temperature, and then the reaction pH was adjusted to pH 1 with dropwise addition of 1M HCl(aq) causing the formation of a pale orange precipitate. The suspension was filtered yielding an orange solid as the pure N-[4-(3-Hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-5-carbonyl)-phenyl]-acetamide (0.272 g, 0.838 mmol, 75%).

reactant | N-[4-(2-Oxo-2,3-dihydro-1H-indole-5-carbonyl)-phenyl]-acetamide | 1.12 mmol, 0.330 g | O=C1NC2=CC=C(C=C2C1)C(=O)C1=CC=C(C=C1)NC(C)=O | C17H14N2O3
reactant | ethyl formate | 3.37 mmol, 0.269 mL | C(=O)OCC | C3H6O2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | ethanol | 3.80 mL | C(C)O | C2H6O
solvent | ethanol | 5.61 mmol, 2.09 mL | C(C)O | C2H6O
product | N-[4-(3-Hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-5-carbonyl)-phenyl]-acetamide | 0.838 mmol, 0.272 g, 75% | OC=C1C(NC2=CC=C(C=C12)C(=O)C1=CC=C(C=C1)NC(C)=O)=O | C18H14N2O4
